US05280022
4-(2-Pyridyloxy)butylaminomethylenebisphosphonic acid hydrochloride (2.0 g) was dissolved in water (50 ml), to which was added an aqueous solution of sodium hydroxide (1N, 15.9 ml). The reaction mixture was concentrated and then dissolved in water (50 ml). To the solution was added methanol to cause precipitation of a solid matter. The solid matter was collected by filtration and washed with methanol to give 4-(2-pyridyloxy)butylaminomethylenebisphosphonic acid disodium salt monohydrate (1.3 g, 62%) as colorless crystals, m.p.>300° C.

reactant | 4-(2-Pyridyloxy)butylaminomethylenebisphosphonic acid hydrochloride | 2.0 g | Cl.N1=C(C=CC=C1)OCCCCNC(P(O)(O)=O)P(O)(O)=O
reactant | sodium hydroxide | 1N, 15.9 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 4-(2-pyridyloxy)butylaminomethylenebisphosphonic acid disodium salt monohydrate | 1.3 g, 62% | O.[Na+].[Na+].N1=C(C=CC=C1)OCCCCNC(P(O)(O)=O)P([O-])([O-])=O | InChI=1S/C10H18N2O7P2.2Na.H2O/c13-20(14,15)10(21(16,17)18)12-7-3-4-8-19-9-5-1-2-6-11-9;;;/h1-2,5-6,10,12H,3-4,7-8H2,(H2,13,14,15)(H2,16,17,18);;;1H2/q;2*+1;/p-2
